US08017630B2
2-(4-Dimethylamino-4-phenyl-cyclohexyl)-N-phenyl-acetamide
n-Butyllithium (1.6 M solution in hexane; 7.1 ml; 11.4 mmol) was added dropwise at 0° C. to a solution of aniline (0.53 g; 5.7 mmol) in 10 ml THF. The mixture was allowed to come to RT and was subsequently stirred for 1 h. A solution of (4-dimethylamino-4-phenyl-cyclohexyl)-acetic acid ethyl ester (1.5 g; 5.2 mmol) in 15 ml THF was added dropwise at −78° C. The mixture was subsequently stirred for 1 h and then allowed to come to RT. It was hydrolysed with ammonium chloride solution and extracted with MC. After concentration, the crude product was chromatographed on silica gel (eluent:ether). 308 mg (18%) of the less polar and 620 mg (36%) of the more polar diastereoisomer were obtained.

reactant | n-Butyllithium | 11.4 mmol, 1.6 M, 7.1 ml | C(CCC)[Li]
reactant | aniline | 5.7 mmol, 0.53 g | NC1=CC=CC=C1 | C6H7N
reactant | (4-dimethylamino-4-phenyl-cyclohexyl)-acetic acid ethyl ester | 5.2 mmol, 1.5 g | C(C)OC(CC1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O | C18H27NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-(4-Dimethylamino-4-phenyl-cyclohexyl)-N-phenyl-acetamide | CN(C1(CCC(CC1)CC(=O)NC1=CC=CC=C1)C1=CC=CC=C1)C | C22H28N2O
